US06521666B1
(2,6-Dichlorophenyl)acetic acid (2.55 g) was dissolved in anhydrous MeOH (60 mL) and HCl (gas) was passed through the mixture and the resulting solution was stirred at room temperature for 18 h. The solvent was then evaporated to give (2,6-dichlorophenyl)acetic acid methyl ester (2.7 g).

reactant | (2,6-Dichlorophenyl)acetic acid | 2.55 g | ClC1=C(C(=CC=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | HCl | Cl | ClH
reactant | MeOH | 60 mL | CO | CH4O
product | (2,6-dichlorophenyl)acetic acid methyl ester | 2.7 g | COC(CC1=C(C=CC=C1Cl)Cl)=O | C9H8Cl2O2
